US09428533B2
5-(Hydroxy-methyl)-2-methyl-4-(1-methyl-1H-imidazol-2-yl)-pyridin-3-ol
5-(hydroxymethyl)-4-(1H-imidazol-2-yl)-2-methylpyridin-3-ol (1.03 g, 5.0 mmol) was suspended in DMF (50 mL) and methyl iodide (0.31 mL, 5 mmol) was added at rt. The reaction mixture was stirred over a period of 19 h and a further portion of methyl iodide (0.125 mL, 2 mmol) was added and stirred over a period of 23 h. Aq. K2CO3 solution (10 mL) and water (50 mL) was added and extracted with ethyl acetate (2×50 mL). Combined organic layers were dried over MgSO4 (10 g) and evaporated to a volume of 20 mL. After 3 days at room temperature, the crystallized product was filtered off and dried to give (600 mg) the title compound as a light beige solid.

reactant | 5-(hydroxymethyl)-4-(1H-imidazol-2-yl)-2-methylpyridin-3-ol | 5.0 mmol, 1.03 g | OCC=1C(=C(C(=NC1)C)O)C=1NC=CN1 | C10H11N3O2
reactant | methyl iodide | 5 mmol, 0.31 mL | CI | CH3I
reactant | methyl iodide | 2 mmol, 0.125 mL | CI | CH3I
reactant | K2CO3 | 10 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 5-(Hydroxy-methyl)-2-methyl-4-(1-methyl-1H-imidazol-2-yl)-pyridin-3-ol | 600 mg | OCC=1C(=C(C(=NC1)C)O)C=1N(C=CN1)C | C11H13N3O2
